US09227956B2
Step 1: ethyl 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoate
Water (160 mL) was added dropwise at room temperature to a mixture of 4-ethoxycarbonylphenylboronic acid (50 g, 0.26 mol), 3-bromopyrazolo[1,5-a]pyrimidine (56.25 g, 0.28 mol), Pd(ddpf)Cl2.CH2Cl2 (4.25 g, 5.21 mmol), and Cs2CO3 (169.42 g, 0.52 mol) in 1,4-dioxane (1 L). The reaction mixture was then heated 85° C. for 4 h. The reaction mixture was cooled, poured into water and extracted with EtOAc (2×300 mL). The combined organic layers were dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure. The crude product was purified by silica gel chromatography eluting with a gradient of petroleum ether: EtOAc (100:10 to 3:1) to deliver the title compound (64 g, 93%) as a yellow solid.

reactant | 4-ethoxycarbonylphenylboronic acid | 0.26 mol, 50 g | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | 3-bromopyrazolo[1,5-a]pyrimidine | 0.28 mol, 56.25 g | BrC=1C=NN2C1N=CC=C2 | C6H4BrN3
reactant | CH2Cl2 | 5.21 mmol, 4.25 g | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 0.52 mol, 169.42 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | Water | 160 mL | O | H2O
product | ethyl 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoate | N1=CC(=C2N1C=CC=N2)C2=CC=C(C(=O)OCC)C=C2 | C15H13N3O2
